US03953461
b. 4-[[3-(Dimethylamino)propyl]amino]-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester
34.5 g. of 4-[[3-(dimethylamino)propyl]amino]-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester are dissolved in 100 ml. of ethanol. 15 g. of sodium sulfide in 10 ml. of water are added and the mixture is stirred without cooling for 1 hour. After this time, the precipitated 4-[[3-(dimethylamino)propyl]amino]-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester is filtered off and recrystallized from methanol, yield 18 g. (53%), m.p. 131°-132°.

reactant | 4-[[3-(dimethylamino)propyl]amino]-6-chloro-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | CN(CCCNC1=C(C(=NC(=C1[N+](=O)[O-])Cl)C)C(=O)OCC)C | C14H21ClN4O4
reactant | ethanol | C(C)O | C2H6O
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 4-[[3-(Dimethylamino)propyl]amino]-6-mercapto-2-methyl-5-nitropyridine-3-carboxylic acid, ethyl ester | CN(CCCNC1=C(C(=NC(=C1[N+](=O)[O-])S)C)C(=O)OCC)C | C14H22N4O4S
